* G:\Shared drives\VCO_MauriceO\VCO_MauriceO\Simulations\Draft1.asc
C1 Vc1 N001 0.22µ
L1 Vc1 Vl1 0.001
V1 N001 0 1 AC 1 0
R1 Vl1 0 10K
.ac dec 20 1 1000000
;.tran 0 0.05 0 0.1 startup
.backanno
.end
