*

.subckt VCO_MauriceO
+       RTN ; input
+       VCAP ; input
+       VCC ; input
+       VCTRL ; input
+       VFB ; input
+       VHI ; input
+       VLO ; input
+       VPOWER ; input


.include "G:/Shared drives/VCO_MauriceO/VCO_MauriceO/Models/kicad netlist.lib"
XU1 /VADJ VCC VPOWER NC-U1-0 lm317
D1 VCC VPOWER D1N4001
R2 /VADJ RTN 720
C1 VPOWER RTN 0.1u
D2 /VADJ VCC D1N4001
C3 /VADJ RTN 10u
C2 VCC RTN 25u
R1 VCC /VADJ 240

.ends
